US07432291B2
i) 3-(2,2-Difluoro-benzo[1,3]dioxol-5-yl)-acrylic acid
A mixture of 10.0 g (53.7 mmol) 2,2-difluoro-benzo[1,3]dioxole-5-carbaldehyde, 6.24 g (60.0 mmol) malonic acid, 0.46 g (5.40 mmol) piperidine and 40 ml pyridine was kept at reflux temperature until carbon dioxide development ceased (3 h). After cooling to room temperature the reaction mixture was poured onto 100 g ice and 30 ml 6N HCl. The precipitate was isolated, washed with water and dried. Yield: 8.60 g (70%) 3-(2,2-Difluoro-benzo[1,3]dioxol-5-yl) -acrylic acid.

reactant | 2,2-difluoro-benzo[1,3]dioxole-5-carbaldehyde | 53.7 mmol, 10.0 g | FC1(OC2=C(O1)C=CC(=C2)C=O)F | C8H4F2O3
reactant | malonic acid | 60.0 mmol, 6.24 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 5.40 mmol, 0.46 g | N1CCCCC1 | C5H11N
reactant | carbon dioxide | C(=O)=O | CO2
reactant | HCl | 6N, 30 ml | Cl | ClH
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 3-(2,2-Difluoro-benzo[1,3]dioxol-5-yl)-acrylic acid | FC1(OC2=C(O1)C=CC(=C2)C=CC(=O)O)F | C10H6F2O4
